US06204264B1
(3) 3-Amino-4-{[3-(dimethylamino)propyl]amino}-N-methylbenzamide
10% of palladium-carbon (0.40 g) was added to a solution containing 4-{[3-(dimethylamino)propyl]amino}-N-methyl-3-nitrobenzamide (1.88 g) in ethanol (30 ml) and the mixture was stirred for 14 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated, thereby yielding the entitled compound (1.63 g) as purple solid.

reactant | 4-{[3-(dimethylamino)propyl]amino}-N-methyl-3-nitrobenzamide | 1.88 g | CN(CCCNC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-])C | C13H20N4O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.40 g | [C].[Pd]
product | 3-Amino-4-{[3-(dimethylamino)propyl]amino}-N-methylbenzamide | 1.63 g | NC=1C=C(C(=O)NC)C=CC1NCCCN(C)C | C13H22N4O
